US06939870B2
3-(2-hydroxyethyl)-6,7-dimethoxy-4(3H)-quinazolinone was prepared from 6,7-dimethoxy-4(3H)-quinazolinone (3 g, 14.6 mmol). The quinazolinone was combined with 2-bromoethanol (1.14 mL, 16 mmol), an excess of potassium carbonate (10 g) and heated at reflux in 200 mL acetone. The salts were filtered off and the reaction mixture was concentrated. The residue was dissolved in chloroform and washed with water. The organic layer was dried over Na2SO4, filtered and concentrated, 1.39 g (38%); light brown powder; m.p. 130° C., MS: 250.9 (M+H)+

reactant | 6,7-dimethoxy-4(3H)-quinazolinone | 14.6 mmol, 3 g | COC=1C=C2C(NC=NC2=CC1OC)=O | C10H10N2O3
reactant | quinazolinone | C=1C=CC2=C(C1)C(=O)NC=N2 | C8H6N2O
reactant | 2-bromoethanol | 16 mmol, 1.14 mL | BrCCO | C2H5BrO
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 3-(2-hydroxyethyl)-6,7-dimethoxy-4(3H)-quinazolinone | OCCN1C=NC2=CC(=C(C=C2C1=O)OC)OC | C12H14N2O4
